US07351719B2
Z23c) (4-hydroxymethyl-phenyl)-acetonitrile
5.17 g (32 mol) of CDl are added to a solution of 4.7 g (29 mol) of 4-cyanomethyl-benzoic acid in 250 mL of tetrahydrofuran and stirred until no more gas is given off. This reaction mixture is added dropwise to a solution of 3.29 g (87 mol) of sodium borohydride in 200 mL of water in such a way that the temperature does not exceed 30° C. The mixture is stirred for two hours and the reaction mixture is adjusted to pH 3-4 with potassium hydrogen sulphate solution. Then it is extracted with EtOAc, the organic phase is dried over magnesium sulphate and the solvent is separated off using the rotary evaporator.

reactant | 4-cyanomethyl-benzoic acid | 29 mol, 4.7 g | C(#N)CC1=CC=C(C(=O)O)C=C1 | C9H7NO2
reactant | sodium borohydride | 87 mol, 3.29 g | [BH4-].[Na+]
reactant | potassium hydrogen sulphate | S(=O)(=O)(O)[O-].[K+]
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | (4-hydroxymethyl-phenyl)-acetonitrile | OCC1=CC=C(C=C1)CC#N | C9H9NO
